US08633313B2
To a mixture of crude 1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanamine (600 mg, 1.83 mmol) and 4-amino-6-chloropyrimidine-5-carbonitrile (283 mg, 1.83 mmol) in n-butanol (11 mL) was added Hunig base (709 mg, 5.49 mmol) at 25° C. The reaction mixture was stirred for overnight at 110° C. Water was added to reaction mixture and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography on neutral alumina using 0-5% MeOH in DCM. It was further purified by reversed-phase HPLC to give 4-amino-6-((1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethyl)amino)-5-pyrimidine-carbonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 1.387 (d, J=6.8 Hz, 3H), 5.250-5.322 (m, 1H), 7.246 (br s, 2H), 7.735-7.843 (m, 3H), 7.911-7.940 (m, 3H), 8.110-8.129 (m, 1H), 8.395 (d, J=4.4 Hz, 1H), 8.622 (s, 1H), 9.028-9.074 (m, 1H); LC-MS (ESI) m/z 446.0 [M+H]+.

reactant | 1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanamine | 1.83 mmol, 600 mg | CS(=O)(=O)C1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(C)N | C17H17N3O2S
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 1.83 mmol, 283 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | Hunig base | 5.49 mmol, 709 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | n-butanol | 11 mL | C(CCC)O | C4H10O
product | 4-amino-6-((1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethyl)amino)-5-pyrimidine-carbonitrile | NC1=NC=NC(=C1C#N)NC(C)C=1C(=NC2=CC=CN=C2C1)C1=C(C=CC=C1)S(=O)(=O)C | C22H19N7O2S
